US06673795B2
A solution of 130 mg (0.66 mmol) of 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride in 5 ml of dioxane was treated at room temperature with 0.23 ml (1.32 mmol) of N-ethyl-diisopropylamine and, thereupon, with 112 mg (0.60 mmol) of crude 5-chloro-3-methylsulfanyl-[1,2,4]triazine-6-carbonitrile. The reaction mixture was stirred at 50° C. during 18 hours. For the working-up, the solution was evaporated under reduced pressure and the residue was chromatographed on silica gel with a 2:1 mixture of hexane and ethylacetate as the eluent. There were obtained 120 mg (0.34 mmol, 64.5% of theory) of 3-methylsulfanyl-5-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-[1,2,4]triazine-6-carbonitrile in the form of an orange powder; MS: [M+H]+=310.

reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 0.66 mmol, 130 mg | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | N-ethyl-diisopropylamine | 1.32 mmol, 0.23 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-3-methylsulfanyl-[1,2,4]triazine-6-carbonitrile | 0.60 mmol, 112 mg | ClC=1N=C(N=NC1C#N)SC | C5H3ClN4S
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-methylsulfanyl-5-(4-phenyl-3,6-dihydro-2H-pyridin-1-yl)-[1,2,4]triazine-6-carbonitrile | 0.34 mmol, 120 mg, 64.5% | CSC=1N=NC(=C(N1)N1CCC(=CC1)C1=CC=CC=C1)C#N | C16H15N5S
